US07968538B2
(S)-1-(2-(1-Phenylethylamino)-4-(piperazin-1-yl)phenyl)-2,2,2-trifluoroethanone hydrochloride
To a solution of t-butyl 4-(3-(1-phenylethylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate (50 mg, 0.1 mmol) in dry dichloromethane (1.0 mL) was added a saturated solution of HCl in diethyl ether (20 mL). The reaction mixture was stirred for 2 h. The solvent was removed by rotary evaporation to afford the title compound (31 mg, 72% yield). 1H NMR (400 MHz, CD3OD): δ 7.63 (d, 1H), 7.36 (m, 5H), 6.36 (d, 1H), 5.86 (s, 1H), 4.75 (m, 1H), 3.52 (m, 2H), 3.45 (m, 2H), 3.17 (m, 4H), 1.60 (d, 3H); MS (ESI) m/z: Calculated for C20H23F3N3O: 378.18; Observed: 378.5 (M++1).

reactant | t-butyl 4-(3-(1-phenylethylamino)-4-(2,2,2-trifluoroacetyl)phenyl)piperazine-1-carboxylate | 0.1 mmol, 50 mg | C1(=CC=CC=C1)C(C)NC=1C=C(C=CC1C(C(F)(F)F)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C25H30F3N3O3
reactant | HCl | Cl | ClH
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | (S)-1-(2-(1-Phenylethylamino)-4-(piperazin-1-yl)phenyl)-2,2,2-trifluoroethanone hydrochloride | 31 mg, 72% yield | Cl.C1(=CC=CC=C1)[C@H](C)NC1=C(C=CC(=C1)N1CCNCC1)C(C(F)(F)F)=O | InChI=1S/C20H22F3N3O.ClH/c1-14(15-5-3-2-4-6-15)25-18-13-16(26-11-9-24-10-12-26)7-8-17(18)19(27)20(21,22)23;/h2-8,13-14,24-25H,9-12H2,1H3;1H/t14-;/m0./s1
